US07897597B2
tert-Butyl [4-(7-benzyloxy-3-nitroquinolin-4-ylamino)butyl]carbamate (20.36 g, 43.6 mmol) was slurried in toluene (450 mL) and added to a Parr vessel charged with 5% platinum on carbon (4.3 g) and a small amount of toluene. 2-Propanol (50 mL) was added, and the vessel was charged with hydrogen (30 psi, 2.1×105 Pa). The hydrogen was replaced three times. After 4 hours, the catalyst was removed by filtration through a layer of CELITE filter aid, and the filter cake was rinsed with toluene (0.5 L), 50% toluene/2-propanol (0.5 L), and 2-propanol (0.25 L). The filtrate was concentrated under reduced pressure, and the residue was mixed with toluene and concentrated under reduced pressure to provide 20.7 g of tert-butyl [4-(3-amino-7-benzyloxyquinolin-4-ylamino)butyl]carbamate as a viscous, black oil.

reactant | tert-Butyl [4-(7-benzyloxy-3-nitroquinolin-4-ylamino)butyl]carbamate | 43.6 mmol, 20.36 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCCNC(OC(C)(C)C)=O | C25H30N4O5
reactant | 2-Propanol | 50 mL | CC(C)O | C3H8O
reactant | hydrogen | [H][H] | H2
solvent | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on carbon | 4.3 g | [Pt] | Pt
product | tert-butyl [4-(3-amino-7-benzyloxyquinolin-4-ylamino)butyl]carbamate | 20.7 g | NC=1C=NC2=CC(=CC=C2C1NCCCCNC(OC(C)(C)C)=O)OCC1=CC=CC=C1 | C25H32N4O3
